US07399775B2
2-Benzyl-5-[1-(4-chlorobenzenesulfonyl) cyclohexyl]-2H-tetrazole
To a toluene (3 ml) solution of 6-(2-benzyl-2H-tetrazol-5-yl)-6-[(4-chlorophenyl)sulfonyl]-1-hexanol (145 mg, 0.33 mmol) was added a toluene (3 ml) solution of cyanomethylenetri-n-butylphosphorane (179 mg, 0.67 m=ol). The resulting mixture was heated under reflux for 7 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography and the fraction obtained from the hexane:ethyl acetate=4:1 eluate was concentrated under reduced pressure. The resulting solid was washed with hexane/diethyl ether and collected by filtration, whereby the title compound (78 mg, 0.19 mmol, 56%) was obtained as a white solid.

reactant | 6-(2-benzyl-2H-tetrazol-5-yl)-6-[(4-chlorophenyl)sulfonyl]-1-hexanol | 0.33 mmol, 145 mg | C(C1=CC=CC=C1)N1N=C(N=N1)C(CCCCCO)S(=O)(=O)C1=CC=C(C=C1)Cl | C20H23ClN4O3S
reactant | cyanomethylenetri-n-butylphosphorane | 179 mg | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Benzyl-5-[1-(4-chlorobenzenesulfonyl) cyclohexyl]-2H-tetrazole | 0.19 mmol, 78 mg, 56% | C(C1=CC=CC=C1)N1N=C(N=N1)C1(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)Cl | C20H21ClN4O2S
